US04604397
3.02 kg of bromine is added during 35 minutes to a mixture of 4.83 kg of 4-(3-aminopropyl)-8-methoxy-2H-[1]-benzopyran hydrochloride and 58 l of dichloromethane at 16°-23°, and once addition is complete the reaction is stirred for 3.5 hours at room temperature. 5.8 kg of triethylamine is added to yield 4-(3-aminopropylidene)-3-bromo-8-methoxy-2H-[1]-benzopyran. The reaction is heated at 60° for 4 hours and then stirred overnight at room temperature. The mixture is washed five times with 12 l water each and 8 l of brine, dried with anhydrous sodium sulfate, filtered and the filtrate is evaporated at reduced pressure to give an oil. This is dissolved in 12 l of isopropanol, treated with 400 g of charcoal, and the mixture is filtered. The filtrate is cooled at 10°, treated with 1.8 l of 10N ethanolic hydrogen chloride and stirred for 1 hour at 5°-10°. The suspension is filtered; the product is washed three times with 4 l isopropanol each and dried 72 hours at 40°/400 Pa to give 7-methoxy-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine hydrochloride, m.p. 195°-198° (dec).

reactant | bromine | 3.02 kg | BrBr | Br2
reactant | 4-(3-aminopropyl)-8-methoxy-2H-[1]-benzopyran hydrochloride | 4.83 kg | Cl.NCCCC1=CCOC2=C1C=CC=C2OC
reactant | dichloromethane | 58 l | ClCCl | CH2Cl2
solvent | triethylamine | 5.8 kg | C(C)N(CC)CC | C6H15N
product | 4-(3-aminopropylidene)-3-bromo-8-methoxy-2H-[1]-benzopyran | NCCC=C1C(COC2=C1C=CC=C2OC)Br | C13H16BrNO2
